US04283414
α-Fluoro-3-phenoxybenzyl α-isopropyl-(4-methoxyphenyl)acetate (2)
This compound was prepared from α-isopropyl-(4-methoxyphenyl)acetic acid and α-fluoro-3-phenoxybenzylbromide following the procedure described in Example 2 Method B. The product, a colourless oil, was characterised by pmr spectroscopy. Chemical shift δ ppm (solvent CDCl3): 0.72(3H, d, J=6Hz, CH3); 1.06(3H, d of d, J=6Hz and J=2Hz, CH3); about 2.25(1H, m, --CH(CH3)2); 3.17(1H, d, J=10Hz, CH); 3.76(3H, s, CH3O); 7.18(1H, d of d, J=56Hz and J=2Hz, CHF); about 7.2(13H, m, aromatic protons).

reactant | α-isopropyl-(4-methoxyphenyl)acetic acid | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)OC | C12H16O3
reactant | α-fluoro-3-phenoxybenzylbromide | FC(C1=CC(=CC=C1)OC1=CC=CC=C1)Br | C13H10BrFO
product | α-Fluoro-3-phenoxybenzyl α-isopropyl-(4-methoxyphenyl)acetate | C(C)(C)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)F)C1=CC=C(C=C1)OC | C25H25FO4
